US20010047017A1
A mixture of (2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)thiobutyramide (19.7 mg) and 2-bromo-1-[4-(1,2,3-thiadiazol-4-yl)phenyl]ethanone (27.4 mg) in acetonitrile (3.0 ml) was stirred at room temperature for 1.0 hour. The solution was diluted with ethyl acetate (10 ml), washed with saturated sodium hydrogen carbonate solution (5 ml) and brine (5 ml), dried over anhydrous sodium sulfate, then concentrated in vacuo. The mixture was purified by silica gel column chromatography developed by hexane-ethyl acetate (1: 1) to give (2R,3R)-2-(2,4-difluorophenyl)-3-{4-[4-(1,2,3-thiadiazol-4-yl)phenyl]thiazol-2-yl}-1-(1H-1,2,4-triazol-1-yl)butan-2-ol as a pale yellow solid (14.1 mg). EI-MS: m/z 497 (M+); 1H-NMR (CDCl3): δ1.26(3H, d, J=6.9 Hz), 4.10(1H, q, J=6.9 Hz), 4.31(1H, d, J=14.3 Hz), 4.92(1H, d, J=14.3 Hz), 6.04(1H, s), 6.76˜6.87 (2H, m), 7.48˜7.58(1H, m), 7.58(1H, s), 7.68(1H, s), 7.92(1H, s), 8.06(2H, d, J=8.4 Hz), 8.16(2H, d, J=8.4 Hz), 8.73(1H, s).

reactant | (2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)thiobutyramide | 19.7 mg | FC1=C(C=CC(=C1)F)[C@]([C@H](C(=S)N)C)(CN1N=CN=C1)O | C13H14F2N4OS
reactant | 2-bromo-1-[4-(1,2,3-thiadiazol-4-yl)phenyl]ethanone | 27.4 mg | BrCC(=O)C1=CC=C(C=C1)C=1N=NSC1 | C10H7BrN2OS
solvent | acetonitrile | 3.0 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-difluorophenyl)-3-{4-[4-(1,2,3-thiadiazol-4-yl)phenyl]thiazol-2-yl}-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 14.1 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C=1SC=C(N1)C1=CC=C(C=C1)C=1N=NSC1)O | C23H18F2N6OS2
